US08071584B2
(racemic)-5-(3-Furanyl)-3-[trans-2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxamide
(racemic)-5-Bromo-3-[trans-2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxamide (60 mg, 0.145 mmol) was placed in a microwave vial and dissolved in 1,4-Dioxane (2 mL) and Water (1 mL). 3-Furanylboronic acid (16.24 mg, 0.145 mmol) and K2CO3 (60.2 mg, 0.435 mmol) were added. Argon was bubbled in the mixture for 10 mins, stirring. PdCl2(dppf) (5.60 mg, 0.012 mmol) was added, and argon was bubbled another 10 mins. The vial was sealed and put under microwave 5 mins at 100° C. with high absorption parameter. The crude was run through a thiol-SPE cartridge eluting with 2 mL of methanol and the eluted solvents are evaporated. The residue was dissolved in 2-3 mL of DMSO, filtered through a syringe filter (Acrodisc CR 13 mm; 45 um PTFE filter), and purified on a Gilson HPLC. The desired fractions were concentrated, giving 22 mg of the title compound.

reactant | (racemic)-5-Bromo-3-[trans-2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxamide | 0.145 mmol, 60 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)[C@H]1C[C@@H](S(CC1)(=O)=O)C(C)C | C17H21BrN2O3S
reactant | 3-Furanylboronic acid | 0.145 mmol, 16.24 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | K2CO3 | 0.435 mmol, 60.2 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-Dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | Water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.012 mmol, 5.60 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (racemic)-5-(3-Furanyl)-3-[trans-2-(1-methylethyl)-1,1-dioxidotetrahydro-2H-thiopyran-4-yl]-1H-indole-7-carboxamide | 22 mg | O1C=C(C=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)[C@H]1C[C@@H](S(CC1)(=O)=O)C(C)C | C21H24N2O4S
